US06150373
A solution of 250 mg (0.4 mmol) of 7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one in 10 ml of ethanol was treated with 0.5 ml of hydrazine hydrate. After 18 hours the mixture was evaporated and the product purified by column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined, evaporated and the residue evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated. Trituration of the residue with hexane followed by filtration afforded 30 mg (15%) of 1-[3-(2-aminoethyl)phenyl]-7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 192° C.

reactant | 7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydro-1-[3-(2-phthalimidoethyl)phenyl]pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.4 mmol, 250 mg | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2C)Cl)=O)C2=CC(=CC=C2)CCN2C(C=1C(C2=O)=CC=CC1)=O | C35H27ClN6O3
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-[3-(2-aminoethyl)phenyl]-7-anilino-3-(2-chloro-6-methylphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 30 mg, 15% | NCCC=1C=C(C=CC1)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=C(C=CC=C2C)Cl)=O | C27H25ClN6O
